US07060425B1
2,6-Di-tert-pentylphenol (161.4 g), glyoxylic acid (122.3 g of the 50% b.w. solution in water) and 1.3 g of p-toluene sulphonic acid are heated in 500 ml of ethylenechloride under nitrogen at reflux temperature in an apparatus designed for the removal of water. After 3.5 hours the reaction mixture is cooled to room temperature, washed 3 times with 25 ml water, dried over magnesium sulphite and evaporated under reduced pressure to give 214.3 g of: 5,7-di-tert-pentyl-3-hydroxy-3H-benzofuran-2-one as an orange coloured oil.

reactant | 2,6-Di-tert-pentylphenol | 161.4 g | C(C)(C)(CC)C1=C(C(=CC=C1)C(C)(C)CC)O | C16H26O
reactant | glyoxylic acid | C(C=O)(=O)O | C2H2O3
reactant | p-toluene sulphonic acid | 1.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
solvent | ethylenechloride | 500 ml | C(CCl)Cl | C2H4Cl2
product | 5,7-di-tert-pentyl-3-hydroxy-3H-benzofuran-2-one | C(C)(C)(CC)C=1C=C(C2=C(C(C(O2)=O)O)C1)C(C)(C)CC | C18H26O3
